US07834035B2
HCl 4N (3 mL dioxane solution) was dropped into a solution of -[3-(4-fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-4-methyl-piperazine-1-carboxylic acid tert-butyl ester (0.312 g, 0.86 mmol) in methanol (8 mL) and the solution was kept under stirring overnight at R.T. Evaporation of the volatiles under reduced pressure provided 2-[3-(4-fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-1-methyl-piperazine dihydrochloride as a white solid (0.285 g).

reactant | HCl | 4N, 3 mL | Cl | ClH
reactant | [3-(4-fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-4-methyl-piperazine-1-carboxylic acid tert-butyl ester | 0.86 mmol, 0.312 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C)C1=NC(=NO1)C1=CC=C(C=C1)F | C18H23FN4O3
solvent | methanol | 8 mL | CO | CH4O
product | 2-[3-(4-fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-1-methyl-piperazine dihydrochloride | 0.285 g, Yield: 100% | Cl.Cl.FC1=CC=C(C=C1)C1=NOC(=N1)C1N(CCNC1)C | InChI=1S/C13H15FN4O.2ClH/c1-18-7-6-15-8-11(18)13-16-12(17-19-13)9-2-4-10(14)5-3-9;;/h2-5,11,15H,6-8H2,1H3;2*1H
